US06531476B1
3.36 g (13.1 mmol) of 1,4-dibenzyl-2-aminomethylpiperazine prepared according to a protocol identical to the one used in steps 6.1 and 6.2 of Example 6 are dissolved in 5.5 ml (3 equivalents; 39.3 mmol) of triethylamine and 100 ml of dichloromethane and are treated by rapid dropwise addition of 2.63 ml (1.5 equivalents; 19.6 mmol) of 2,2-dimethylpropanoyl chloride dissolved in 30 ml of CH2Cl2. The solution is refluxed for 4 hours. A few ml of ethanol are then added, after which the solution is washed twice with water, once with saturated NaHCO3 solution and then with water until a neutral pH is obtained. After drying the organic phase (MgSO4), filtration on paper and evaporation of the solvents, the residue is chromatographed on a column of silica gel, eluting with an MeOH/CH2Cl2 mixture (0.5/99.5 v/v). 2.44 g of 1,4-dibenzyl-2-tert-butylcarbonylaminomethylpiperazine are thus obtained in the form of a viscous product. Yield: 49%. Rf═0.36 (95/5 v/v CH2Cl2/MeOH).

reactant | 1,4-dibenzyl-2-aminomethylpiperazine | 13.1 mmol, 3.36 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CN | C19H25N3
reactant | triethylamine | 39.3 mmol, 5.5 ml, 3 equivalents | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethylpropanoyl chloride | 19.6 mmol, 2.63 ml, 1.5 equivalents | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | ethanol | C(C)O | C2H6O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1,4-dibenzyl-2-tert-butylcarbonylaminomethylpiperazine | 2.44 g, Yield: 49% | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CNC(=O)C(C)(C)C | C24H33N3O
